US07687502B2
[6-(2-Fluoro-6-(methylsulfonyl)phenoxy)-quinazolin-4-yl]-pyrazin-2-yl-amine
The compound of Example 97 was manufactured by the same method as in Example 95, by a similar method thereto or by a combination of such a method with a conventional method using 1,2-difluoro-3-methanesulfonylbenzene, 2-aminopyrazine and 4-chloro-6-hydroxy-quinazoline.

reactant | 1,2-difluoro-3-methanesulfonylbenzene | FC1=C(C(=CC=C1)S(=O)(=O)C)F | C7H6F2O2S
reactant | 2-aminopyrazine | NC1=NC=CN=C1 | C4H5N3
reactant | 4-chloro-6-hydroxy-quinazoline | ClC1=NC=NC2=CC=C(C=C12)O | C8H5ClN2O
product | [6-(2-Fluoro-6-(methylsulfonyl)phenoxy)-quinazolin-4-yl]-pyrazin-2-yl-amine | FC1=C(OC=2C=C3C(=NC=NC3=CC2)NC2=NC=CN=C2)C(=CC=C1)S(=O)(=O)C | C19H14FN5O3S
